US08859573B2
2-{[4-chloro-3-(trifluoromethyl)phenyl]oxy}-5-(hydroxymethyl)benzonitrile
To a solution of 2-{[4-chloro-3-(trifluoromethyl)phenyl]oxy}-5-formylbenzonitrile (5.0 g, 15.4 mmol) in methanol (50 mL) was added sodium borohydride (0.61 g, 16.1 mmol) at 0° C. The reaction mixture was stirred at rt for 30 min and concentrated. Purification via ISCO system (CH2Cl2/MeOH-20/1) afforded the title product (4.76 g) as an off-white solid. LC-MS (ESI): m/z 328 [M+H]+; 3.96 min (ret time).

reactant | 2-{[4-chloro-3-(trifluoromethyl)phenyl]oxy}-5-formylbenzonitrile | 15.4 mmol, 5.0 g | ClC1=C(C=C(C=C1)OC1=C(C#N)C=C(C=C1)C=O)C(F)(F)F | C15H7ClF3NO2
reactant | sodium borohydride | 16.1 mmol, 0.61 g | [BH4-].[Na+]
solvent | methanol | 50 mL | CO | CH4O
product | 2-{[4-chloro-3-(trifluoromethyl)phenyl]oxy}-5-(hydroxymethyl)benzonitrile | 4.76 g | ClC1=C(C=C(C=C1)OC1=C(C#N)C=C(C=C1)CO)C(F)(F)F | C15H9ClF3NO2
